US07893267B2
20 mg of (0.44 mmol) of 2-[(5-phenylethynyl-pyridine-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide was dissolved in a mixture of 10 mL of CH3OH and 0.5 mL of acetic acid. To this stirring solution 10 mg of 10% Pd on carbon was added and the resulting mixture was hydrogenated (1 atm) at room temperature for 3.0 h. The reaction mixture was filtered, and the solid was washed with portions of methanol. The filtrate and washings were combined and evaporated to give 18 mg (88%) of 2-[(5-phenethyl-pyridine-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide. LCMS: 452 (M+1)+.

reactant | 2-[(5-phenylethynyl-pyridine-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide | 0.44 mmol, 20 mg | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=NC=C(C2)C#CC2=CC=CC=C2 | C25H17N7O2
solvent | CH3OH | 10 mL | CO | CH4O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
catalyst | Pd on carbon | 10 mg | [Pd] | Pd
product | 2-[(5-phenethyl-pyridine-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide | 18 mg, 88% | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=NC=C(C2)CCC2=CC=CC=C2 | C25H21N7O2
